US06949542B2
{5-Methyl-2-[3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (290 mg, 1.0 mmol) and 3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K14) (298 mg, 1.0 mmol) according to the general procedure M. Obtained as a white foam (350 mg, 68%).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 290 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 298 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CN=C1)=O)=O | C17H18N2O3
product | {5-Methyl-2-[3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CN=C1)=O)=O)=O | C26H25F3N4O4
